US04027038
2-(m-Nitrobenzamido)-1,5-naphthalenedisulfonic acid disodium salt
A 48.5 g portion of 2-amino-1,5-naphthalenedisulfonic acid is suspended in 80 ml of water and 160 ml of 1N sodium hydroxide is added, then 60.0 g of m-nitrobenzoyl chloride is added all at once. The mixture is shaken for about 15 minutes and another 160 ml of 1N sodium hydroxide is added with shaking for 1/2 hour. The latter addition of sodium hydroxide and shaking is repeated two more times, then 100 ml of water is added and the mixture is acidified with 17 ml of concentrated hydrochloric acid. The resulting mixture is then copiously extracted with ether with the addition of 700 ml of water during the ether extraction. The ether is removed by vacuum siphoning and the aqueous solution is filtered. The filtrate is then concentrated in vacuo at 55°-60° C. until formation of crystals. The material is then allowed to stand 48 hours at room temperature and the solid residue of fine feathery needles is broken up and is filtered. The residue is washed with two 100 ml portions of saturated saline solution and then is slurried with two 200 ml portions of 90% ethyl alcohol followed by 200 ml of absolute ethyl alcohol and two 300 ml portions of ether. The product is then dried at 120° C. overnight to give 52.8 g of product. A 27.8 g portion of this material is dissolved in 110 ml of boiling water. The solution is then cooled to room temperature and the crystallized final product is filtered and is washed with a small amount of cold water then is dried at 120° C. overnight.

reactant | 2-amino-1,5-naphthalenedisulfonic acid | NC1=C(C=2C=CC=C(C2C=C1)S(=O)(=O)O)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 1N, 160 ml | [OH-].[Na+]
reactant | m-nitrobenzoyl chloride | 60.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | sodium hydroxide | 1N, 160 ml | [OH-].[Na+]
reactant | hydrochloric acid | 17 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(m-Nitrobenzamido)-1,5-naphthalenedisulfonic acid disodium salt | 52.8 g | [Na+].[Na+].[N+](=O)([O-])C=1C=C(C(=O)NC2=C(C=3C=CC=C(C3C=C2)S(=O)(=O)[O-])S(=O)(=O)[O-])C=CC1 | InChI=1S/C17H12N2O9S2.2Na/c20-17(10-3-1-4-11(9-10)19(21)22)18-14-8-7-12-13(16(14)30(26,27)28)5-2-6-15(12)29(23,24)25;;/h1-9H,(H,18,20)(H,23,24,25)(H,26,27,28);;/q;2*+1/p-2
